US07598286B2
Step B: [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-hydroxyphenyl)methanone
A solution of [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-methoxyphenyl)methanone (0.19 g, 0.49 mmol) in 10 mL of CH2Cl2 containing 0.2 mL cyclohexene was cooled to −78° C. under an argon atmosphere. Boron tribromide (0.185 mL, 1.95 mmol) was added in one portion and the reaction mixture was allowed to warm to ambient temperature. The reaction was quenched by the careful addition of methanol. The reaction mixture was partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). The solvents were removed in vacuo and the residue purified by flash chromatography to give 0.15 g of the title compound as a light yellow solid, (mp 152° C.).

reactant | [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-methoxyphenyl)methanone | 0.49 mmol, 0.19 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C(=O)C1=CC(=CC=C1)OC | C21H19F3N2O2
reactant | Boron tribromide | 1.95 mmol, 0.185 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [1-cyclopentyl-7-(trifluoromethyl)-1H-indazol-3-yl](3-hydroxyphenyl)methanone | 0.15 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C20H17F3N2O2
